US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-3-methoxy-4-methyl-5-(4-(piperidin-1-yl)phenyl)-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (15 eq in water), diazald (8 eq), ethylene glycol/Et2O (1/2 v/v, 60 ml), 1-(1H-Benzo[d]imidazol-6-yl)-3-hydroxy-4-methyl-5-(4-(piperidin-1-yl)phenyl)-1H-pyrrol-2(5H)-one (0.700 g, 1.88 mmol, 1 eq) and MeOH (20 ml); yield: 0.050 g (7%); MS m/z: 403.1 [M+H]+; 1H-NMR: (400 MHz, DMSO-D6) δ: 8.59 (s, 1H), 7.81 (s, 1H), 7.55-7.53 (m, 1H), 7.45-7.42 (m, 1H), 7.06-7.04 (m, 2H), 6.82-6.79 (m, 2H), 5.69 (s, 1H), 3.93 (s, 3H), 3.05-3.02 (m, 4H), 1.70 (s, 3H), 1.53-1.46 (m, 6H); HPLC (METHOD [A]): rt 6.03 min (99.04%)

reactant | KOH | 15 eq | [OH-].[K+]
reactant | diazald | 8 eq | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | ethylene glycol Et2O | 60 ml | C(CO)O.CCOCC
reactant | 1-(1H-Benzo[d]imidazol-6-yl)-3-hydroxy-4-methyl-5-(4-(piperidin-1-yl)phenyl)-1H-pyrrol-2(5H)-one | 1.88 mmol, 0.700 g, 1 eq | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=CC=C(C=C2)N2CCCCC2)C)O)=O | C23H24N4O2
solvent | MeOH | 20 ml | CO | CH4O
product | 1-(1H-Benzo[d]imidazol-6-yl)-3-methoxy-4-methyl-5-(4-(piperidin-1-yl)phenyl)-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=CC=C(C=C2)N2CCCCC2)C)OC)=O | C24H26N4O2
